US08067420B2
A solution of N1-(2,2-dimethoxyethyl)-N2-(4-methoxybenzyl)oxalamide (7.5 g, 25.3 mmol) and TFA (2.340 mL, 30.4 mmol) in AcOH (160 mL) was stirred at 135° C. in a seal tube for 1.5 hours. After cooling to RT and removal of the volatiles under vacuum, ethyl ether (150 ml) and sat. aq. NaHCO3 solution (150 ml) were added. The resulting precipitate was collected by filtration, washed with H2O (50 ml) and ether (50 ml) prior to drying under high vacuum to yield 3-hydroxy-1-(4-methoxybenzyl)pyrazin-2(1H)-one (5.30 g, 21.68 mmol, 86% yield) as brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.17 (1H, br. s.), 7.18 (2H, d), 6.81 (2H, d), 6.46 (1H, d, J=5.77 Hz), 6.23 (1H, br. s.), 4.74 (2H, s), 3.24 (1H, s).

reactant | N1-(2,2-dimethoxyethyl)-N2-(4-methoxybenzyl)oxalamide | 25.3 mmol, 7.5 g | COC(CNC(C(=O)NCC1=CC=C(C=C1)OC)=O)OC | C14H20N2O5
reactant | TFA | 30.4 mmol, 2.340 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | AcOH | 160 mL | CC(=O)O | C2H4O2
product | 3-hydroxy-1-(4-methoxybenzyl)pyrazin-2(1H)-one | 21.68 mmol, 5.30 g, 86% yield | OC=1C(N(C=CN1)CC1=CC=C(C=C1)OC)=O | C12H12N2O3
